US07888366B2
To a stirred solution of 4-chloromandelic acid (10.0 g, 53.6 mmol) in methanol was added sulfuric acid (3.1 mL, 58.9 mmol). The reaction mixture was refluxed for 6 hours. The reaction mixture was concentrated, neutralized with sat. sodium carbonate solution, extracted with ether, washed with brine, dried, and concentrated. Purification by silica gel chromatography (40% ethyl acetate in hexanes) yielded 10.0 g of (4-chlorophenyl)hydroxyacetic acid methyl ester.

reactant | 4-chloromandelic acid | 53.6 mmol, 10.0 g | ClC1=CC=C(C(C(=O)O)O)C=C1 | C8H7ClO3
reactant | sulfuric acid | 58.9 mmol, 3.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | (4-chlorophenyl)hydroxyacetic acid methyl ester | 10.0 g | COC(C(O)C1=CC=C(C=C1)Cl)=O | C9H9ClO3
